US05310743
a) 1-tert-Butoxycarbonyl-4-piperidone ethylene ketal
26.1 g of di-tertiary-butyl dicarbonate dissolved in 20 ml of toluene are slowly added to a stirred solution of 14.3 g of 4-piperidone ethylene ketal in 100 ml of toluene at 0° to 5°. The mixture is left to stir at room temperature for 2 hours and then evaporated under reduced pressure and distilled under reduced pressure. 22.2 g of the title compound are obtained, boiling point 83°-85° (0.2 Torr). TLC (ethyl acetate/hexane; 1:3): Rf =0.20.

reactant | di-tertiary-butyl dicarbonate | 26.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-piperidone ethylene ketal | 14.3 g | C1COC2(CCNCC2)O1 | C7H13NO2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-tert-Butoxycarbonyl-4-piperidone ethylene ketal | 22.2 g | C1COC2(CCN(CC2)C(=O)OC(C)(C)C)O1 | C12H21NO4
